*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-05[uF]/630[V]
* Murata P/N :GCH21A5C2J100GX01
* Property : C = 1.00e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH21A5C2J100GX01 Port1 Port2
C01 Port1 N01 1.00e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 6.46e-11
R03 N02 N03 2.34e-01
C04 N03 N04 6.66e-11
R04 N03 N04 2.81e+03
L05 N04 N05 3.12e-11
R05 N04 N05 3.04e-01
C06 N05 Port2 6.88e-13
L06 N05 Port2 5.25e-10
R06 N05 Port2 2.65e+02
.ENDS GCH21A5C2J100GX01
