*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.20e-03[uF]/100[V]
* Murata P/N :GCH2165C2A222JE01
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCH2165C2A222JE01 Port1 Port2
C01 Port1 N01 2.27e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 2.44e-10
R03 N02 N03 1.20e-02
L04 N03 N04 7.51e-11
R04 N03 N04 3.77e-01
L05 N04 N05 7.62e-11
R05 N04 N05 1.62e-02
C06 N05 N06 1.57e-08
L06 N05 N06 1.41e-11
R06 N05 N06 2.23e-01
C07 N06 N07 2.62e-09
L07 N06 N07 3.14e-11
R07 N06 N07 4.52e-01
C08 N07 Port2 2.05e-12
L08 N07 Port2 1.72e-10
R08 N07 Port2 8.24e+01
.ENDS GCH2165C2A222JE01
